US09376441B2
tert-butyl 4-(6-(1-cyclopropyl-7-((R)-1-((R)-1-((R)-1-(4-methoxyphenyl)ethyl)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)pyridin-3-yl)piperazine-1-carboxylate (129 mg, 0.189 mmol) was treated with TFA (3 mL) at 60° C. for 14 h. The reaction mixture was then concentrated to give (R)-4-((R)-1-((1-cyclopropyl-5-(5-(piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: 3.58 as a TFA salt which was used further without purification. LCMS-ESI+ (m/z): [M+H]+ calcd for C25H31N6O2: 447.3; found 447.2.

reactant | tert-butyl 4-(6-(1-cyclopropyl-7-((R)-1-((R)-1-((R)-1-(4-methoxyphenyl)ethyl)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)pyridin-3-yl)piperazine-1-carboxylate | 0.189 mmol, 129 mg | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC=C(C=N2)N2CCN(CC2)C(=O)OC(C)(C)C)O[C@H](C)[C@H]2CN(C(C2)=O)[C@H](C)C2=CC=C(C=C2)OC | C39H48N6O5
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-4-((R)-1-((1-cyclopropyl-5-(5-(piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=NC=C(C=C2)N2CCNCC2)O[C@H](C)[C@@H]2CC(NC2)=O | C25H30N6O2
